US06562828B1
4-(1-tert-Butoxycarbonylpyrrolidin-3-yloxy)phenoxyacetic Acid Ethyl Ester
To a solution of 4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)phenol (2.14 g) in tetrahydrofuran (43 l) were added ethyl bromoacetate (1.1 ml) and 60% sodium hydride (368 mg) with ice-cooling, and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, ice water was added and the mixture was extracted with ethyl acetate and washed with 10% aqueous citric acid solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:3) and dried under reduced pressure to give the title compound (2.605 g).

reactant | 4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)phenol | 2.14 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)O | C15H21NO4
reactant | ethyl bromoacetate | 1.1 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydride | 368 mg | [H-].[Na+]
solvent | tetrahydrofuran | 43 l | O1CCCC1 | C4H8O
product | 4-(1-tert-Butoxycarbonylpyrrolidin-3-yloxy)phenoxyacetic Acid Ethyl Ester | 2.605 g | C(C)OC(COC1=CC=C(C=C1)OC1CN(CC1)C(=O)OC(C)(C)C)=O | C19H27NO6
